.lib "/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice" typical
.subckt strongarm_comparator VDD VSS INP INN CLK OUTP OUTN
XM1  TAIL CLK VSS VSS nfet_03v3 L=0.5u W=6.9u nf=3
XM2  D1 INP TAIL VSS nfet_03v3 L=1u W=9.2u nf=4
XM3  D2 INN TAIL VSS nfet_03v3 L=1u W=9.2u nf=4
XM4  OUTN OUTP D1 VSS nfet_03v3 L=0.5u W=6.9u nf=3
XM5  OUTP OUTN D2 VSS nfet_03v3 L=0.5u W=6.9u nf=3
XM6  OUTN OUTP VDD VDD pfet_03v3 L=0.5u W=6.9u nf=3
XM7  OUTP OUTN VDD VDD pfet_03v3 L=0.5u W=6.9u nf=3
XM8  OUTN CLK VDD VDD pfet_03v3 L=0.5u W=2.3u nf=1
XM9  OUTP CLK VDD VDD pfet_03v3 L=0.5u W=2.3u nf=1
XM10 D1 CLK VDD VDD pfet_03v3 L=0.5u W=2.3u nf=1
XM11 D2 CLK VDD VDD pfet_03v3 L=0.5u W=2.3u nf=1
.ends